US09120749B2
1-{6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (180 mg, 0.635 mmol) was reacted with 3-[2-(pyrrolidin-1-yl)ethyl]aniline (120 mg, 0.635 mmol) to afford the desired product (198 mg, 71%) as a yellow solid: ESI MS m/z 438 [C23H24BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.635 mmol, 180 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 3-[2-(pyrrolidin-1-yl)ethyl]aniline | 0.635 mmol, 120 mg | N1(CCCC1)CCC=1C=C(N)C=CC1 | C12H18N2
product | 1-{6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}ethanone | 198 mg, 71% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN1CCCC1 | C23H24BrN3O
